US08198453B2
To a magnetically stirred solution of (R)-2-(tetrahydro-2H-pyran-3-yl)acetaldehyde (11 g, 85.8 mmol) in Et2O (215 mL) at room temperature was added MeNH2 (2M in THF, 215 mL, 429.2 mmol) and molecular sieves (4 Å, powdered, activated, 21.5 g). The reaction was stirred at room temperature for 1 h. The resulting mixture was then filtered and concentrated under reduced pressure to furnish (R,E)-N-(2-(tetrahydro-2H-pyran-3-yl)ethylidene)methanamine as a yellow oil (11.3 g, 80 mmol, 93%). The crude material was carried on without further purification. 1H NMR (400 MHz, CDCl3) δ 7.67 (m, 1H), 3.86-3.91 (m, 2H), 3.36-3.43 (m, 1H), 3.29 (s, 3H), 3.13 (dd, J=11.0, 9.8 Hz, 1H), 1.95-2.14 (m, 2H), 1.86-1.91 (m, 2H), 1.62-1.68 (m, 2H), 1.21-1.30 (m, 1H).

reactant | (R)-2-(tetrahydro-2H-pyran-3-yl)acetaldehyde | 85.8 mmol, 11 g | O1C[C@H](CCC1)CC=O | C7H12O2
reactant | MeNH2 | 429.2 mmol, 2M, 215 mL | CN | CH5N
solvent | Et2O | 215 mL | CCOCC | C4H10O
product | (R,E)-N-(2-(tetrahydro-2H-pyran-3-yl)ethylidene)methanamine | 80 mmol, 11.3 g, 93% | O1C[C@H](CCC1)C\C=N\C | C8H15NO
